.MODEL TR1 NPN
+     IS = 1.822E-14 
+     NF = 0.9932 
+     ISE = 2.894E-16 
+     NE = 1.4 
+     BF = 324.4 
+     IKF = 0.109 
+     VAF = 82 
+     NR = 0.9931 
+     ISC = 9.982E-12 
+     NC = 1.763 
+     BR = 8.29 
+     IKR = 0.09 
+     VAR = 17.9 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.649 
+     RC = 0.7014 
+     CJE = 1.244E-11 
+     VJE = 0.7579 
+     MJE = 0.3656 
+     TF = 4.908E-10 
+     XTF = 9.51 
+     VTF = 2.927 
+     ITF = 0.3131 
+     PTF = 0 
+     CJC = 3.347E-12 
+     VJC = 0.5463 
+     MJC = 0.391 
+     XCJC = 0.6193 
+     TR = 9E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     XTB = 0 
+     XTI = 3 
+     EG = 1.11 
+     FC = 0.979


.MODEL TIP42C       PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f
+   Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24
+   Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5
+   Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33
+   Xtf=5.982 Vtf=10 Rb=.1)


.SUBCKT OP295    1  2  99 50 20
*
* INPUT STAGE
*
I1   99   4    2E-6
R1   1    6    5E3
R2   2    5    5E3
CIN  1    2    2E-12
IOS  1    2    0.5E-9
D1   5    3    DZ
D2   6    3    DZ
EOS  7    6    POLY(1) (31,39) 30E-6 0.024
Q1   8    5    4   QP
Q2   9    7    4   QP
R3   8    50   25.8E3
R4   9    50   25.8E3
*
* GAIN STAGE
*
R7   10   98   270E6
G1   98   10   POLY(1) (9,8) -4.26712E-9 27.8E-6
EREF 98   0    (39,0) 1
R5   99   39   100E3
R6   39   50   100E3
*
* COMMON MODE STAGE
*
ECM 30 98 POLY(2) (1,39) (2,39) 0 0.5 0.5
R12 30 31 1E6
R13 31 98 100
*
* OUTPUT STAGE
*
I2   18   50   1.59E-6
V2   99   12   DC 2.2763
Q4   10   14   50   QNA  1.0
R11  14   50   33
M3   15   10   13   13   MN  L=9E-6 W=102E-6 AD=15E-10 AS=15E-10
M4   13   10   50   50   MN  L=9E-6 W=50E-6 AD=75E-11 AS=75E-11
D8   10   22   DX
V3   22   50   DC 6
M2   20   10   14   14   MN  L=9E-6 W=2000E-6 AD=30E-9 AS=30E-9
Q5   17   17   99   QPA  1.0
Q6   18   17   99   QPA  4.0
R8   18   99   2.2E6
Q7   18   19   99   QPA  1.0
R9   99   19   8
C2   18   99   20E-12
M6   15   12   17   99   MP  L=9E-6 W=27E-6 AD=405E-12 AS=405E-12
M1   20   18   19   99   MP  L=9E-6 W=2000E-6 AD=30E-9 AS=30E-9
D4   21   18   DX
V4   99   21   DC 6
R10  10   11   6E3
C3   11   20   50E-12
.MODEL QNA NPN(IS=1.19E-16 BF=253 NF=0.99 VAF=193 IKF=2.76E-3
+ ISE=2.57E-13 NE=5 BR=0.4 NR=0.988 VAR=15 IKR=1.465E-4
+ ISC=6.9E-16 NC=0.99 RB=2.0E3 IRB=7.73E-6 RBM=132.8 RE=4 RC=209
+ CJE=2.1E-13 VJE=0.573 MJE=0.364 FC=0.5 CJC=1.64E-13 VJC=0.534 MJC=0.5
+ CJS=1.37E-12 VJS=0.59 MJS=0.5 TF=0.43E-9 PTF=30)
.MODEL QPA PNP(IS=5.21E-17 BF=131 NF=0.99 VAF=62 IKF=8.35E-4
+ ISE=1.09E-14 NE=2.61 BR=0.5 NR=0.984 VAR=15 IKR=3.96E-5
+ ISC=7.58E-16 NC=0.985 RB=1.52E3 IRB=1.67E-5 RBM=368.5 RE=6.31 RC=354.4
+ CJE=1.1E-13 VJE=0.745 MJE=0.33 FC=0.5 CJC=2.37E-13 VJC=0.762 MJC=0.4
+ CJS=7.11E-13 VJS=0.45 MJS=0.412 TF=1.0E-9 PTF=30) 
.MODEL MN NMOS(LEVEL=3 VTO=1.3 RS=0.3 RD=0.3 
+ TOX=8.5E-8 LD=1.48E-6 NSUB=1.53E16 UO=650 DELTA=10 VMAX=2E5
+ XJ=1.75E-6 KAPPA=0.8 ETA=0.066 THETA=0.01 TPG=1 CJ=2.9E-4 PB=0.837
+ MJ=0.407 CJSW=0.5E-9 MJSW=0.33)
.MODEL MP PMOS(LEVEL=3 VTO=-1.1 RS=0.7 RD=0.7 
+ TOX=9.5E-8 LD=1.4E-6 NSUB=2.4E15 UO=650 DELTA=5.6 VMAX=1E5
+ XJ=1.75E-6 KAPPA=1.7 ETA=0.71 THETA=5.9E-3 TPG=-1 CJ=1.55E-4 PB=0.56
+ MJ=0.442 CJSW=0.4E-9 MJSW=0.33)
.MODEL DX D(IS=1E-15)
.MODEL DZ D(IS=1E-15, BV=7)
.MODEL QP PNP(BF=125)
.ENDS


.SUBCKT LM358       1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            2mV
*Wide supply range =       +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8               
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS


.SUBCKT MCP6001 1 2 3 4 5
* Input Stage
V10  3 10 -500M
R10 10 11 6.90K 
R11 10 12 6.90K 
C11 11 12 0.2p
C12 1  0 6.00P 
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   1.00M 20.1 20.1 1 1
G12 1 0 62 0 1m 
M12 11 14 15 15 NMI L=2.00U W=42.0U
M14 12  2 15 15 NMI L=2.00U W=42.0U
G14 2 0 62 0 1m 
C14  2  0 6.00P 
I15 15  4 50.0U
V16 16  4 -300M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
V13  3 13 -300M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
R70 1 0 20.6T  
R71 2 0 20.6T 
R72 1 2 20T 
I80 1 2 0.5p
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
G26  0 26 POLY(1) 3 4   110U -49U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0   -440U 39.7U 39.7U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 POLY(1) 12 11   0 1
R30 30  0 1K
G31  0 31 POLY(1) 3 4 86 5.25
R31 31  0 1 TC=2.8m
GD31 30 31 TABLE {V(30,31)} ((-11,-1)(-10,-10n)(0,0)(1m,1000))
G32 32  0 POLY(1) 3 4 113.7 3.5
R32 32  0 1 TC=2.65m
GD32 30 32 TABLE {V(30,32)} ((-1m,-1000)(0,0)(10,10n)(11,1))
G33 0 33 30 0 1m
R33 33 0 1k
G34  0 34 33 0 425M
R34  34 0 1K
C34  34 0 74U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 41.6P 
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 100U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(16,1n)(16.1,1))
G36 33 0 TABLE {V(35,4)} ((-16.1,-1)(-16,-1n)(0,0)(1,1n))
*
* Output Stage 
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 750
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.67M 0.67M 1.5M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7m 1 -40.0M
E56 56  0 POLY(2) 4 0 52 0 1.2m 1 -37.0M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n)) 
G53  3  0 POLY(1) 51 0  -49U 1M
G54  0  4 POLY(1) 52 0  -49U -1M
*
* Current Limit 
G99 96 5 99 0 1 
R98 0 98 1 TC=-2.8M,2.63U 
G97 0 98 TABLE { V(96,5) } ((-11.0,-10.0M)(-1.00M,-9.9M)(0,0)(1.00M,9.9M)(11.0,10.0M)) 
E97 99 0 VALUE { V(98)*((V(3)-V(4))*359M + 310M)} 
D98 4 5 DESD 
D99 5 3 DESD 
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 100 TC 3.11M 4.51U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(900M,0.0106U)(1.00,0.20U)(1.3,0.63U)
+ (1.5,0.66U)(1.6,1.06U)(5.5,1.10U))
*
* Temp Sensitive offset voltage 
I73 0 70 DC 1uA 
R74 0 70 1 TC=2 
E75 1 71 70 0 1 
*
* Temp Sensistive IBias 
I62 0 62 DC 1uA 
R62 0 62 REXP 58.2u 
* Voltage on R62 used for G12, G14 in input stage
*
* Models
.MODEL NMI NMOS
.MODEL DESD  D   N=1 IS=1.00E-15 
.MODEL DL  D   N=1 IS=1F 
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP RES TCE=10.1 
.ENDS MCP6001


.subckt TLV247xA 1 2 3 4 5
*
  c1   11 12 1.1094E-12
  c2    6  7 5.5000E-12
  css  10 99 556.53E-15

  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 39.614E6 -1E3 1E3 40E6 -40E6
  ga    6  0 11 12 79.828E-6
  gcm   0  6 10 99 32.483E-9
  iss  10  4 dc 10.714E-6
  hlim 90  0 vlim 1K
  ioff 0 6 dc 75E-9
  j1   11  2 10 jx1
  j2   12  1 10 jx2
  r2    6  9 100.00E3
  rd1   3 11 12.527E3
  rd2   3 12 12.527E3
  ro1   8  5 10
  ro2   7 99 10
  rp    3  4 3.8023E3
  rss  10 99 18.667E6
  vb    9  0 dc 0
  vc    3 53 dc .842
  ve   54  4 dc .842
  vlim  7  8 dc 0
  vlp  91  0 dc 110
  vln   0 92 dc 110
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 NJF(Is=1.0825E-12 Beta=594.78E-6 Vto=-1)
.model jx2 NJF(Is=1.0825E-12 Beta=594.78E-6 Vto=-1)
.ends

* MCP6001gpt Simplified Model
.SUBCKT MCP6001gpt 1 2 3 4 5
* Pin 1: Non-Inverting Input
* Pin 2: Inverting Input
* Pin 3: Output
* Pin 4: V+ (Positive Supply)
* Pin 5: V- (Negative Supply)

* Input Stage
Einput 1 0 2 0 100k  ; Voltage-controlled voltage source
Rin 1 2 10k           ; Input resistance
C1 1 0 10p            ; Input capacitance

* Output Stage
Rout 3 0 1k           ; Output load
G1 2 0 3 0 1m         ; Voltage-controlled current source for feedback
Cout 3 0 10p          ; Output capacitance

* Power Supply
Vplus 4 0 DC 5        ; Positive supply
Vminus 5 0 DC -5      ; Negative supply (adjusted to be negative)

.ENDS MCP6001gpt


.SUBCKT ADTL082         1   2   99  50  30
*
* INPUT STAGE
*
R3   5  50  6.437E+03
R4   6  50  6.437E+03
CIN  1   2    5.5E-12
I1   99  4    9.321E-04
IOS  1   2    1.00E-12
EOS  60  1    POLY(2)  (17,24) (73,24)  2.00E-03  1 1 
EN   7  60 POLY(1) (81, 98) 0 1
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4,2) (5,2) (50,2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4,7) (6,7) (50,7) 0 1E-12 1E-12 1E-12
*
EREFNEG 1000 0 24 0 -1
EREF 98 0 POLY(2) (99,0) (50,0) 0 .5 .5 
*
* VOLTAGE NOISE GENERATOR
*
VN1  80 98 0
RN1 80 98 17.1E-3
HN  81 98 VN1 1.6E1
RN2 81 98 1

* Flicker noise
*
*D10 69 98 DNOISE
*VSN 69 98 DC .6551
*H1 70 98 VSN 8.22E+01
*RN 70 98 1


** SECOND STAGE & POLE AT 1.3 kHZ
*
R5   9  98    1.48E+05
C3   9  98    39000E-12
G1   98  9    5  6  1.30E-01
V2   99  8    0.7
V3   10 1000    -10.2

D1   9   8    DX
D2   10  9    DX
*
* COMMON-MODE GAIN NETWORK
*
E3   16 98     POLY(2) (1,98)  (2,98)  0  2.623E-03   2.623E-03
R11  16 17     1.326E+06
R12  17 98     3.183E+03
C8   16 17     100E-12
*E3   16 98     POLY(2) (1,98)  (2,98)  0  1.0E-02 1.0E-02
*R11  16 17     3.27E+02
*R12  17 98     1.59E-1
*C8   16 17     50E-8
*
* PSRR NETWORK
*
EPSY 98 72 POLY(1) (99,50) 0 30.00E-02
CPS3 72 73 300E-12
RPS3 72 73 20.0E+05
RPS4 73 98 1.96E+02;  was 1.96E+02
*
* POLE AT 15 MHZ
*
R13  18 98     1E3
C9   18 98   1.48E-11
G5   98 18     9  24  1E-3
*

*
* OUTPUT STAGE
*
R14  24 99     500E3
R15  24 50     500E3
CF   24  0     1E-6
GSY  99 50     POLY(1) 99 50 .0002 1.0E-6
R16  29 99     8.00E+01
R17  29 50     8.00E+01
L1   29 30     1E-8
G6   27 50     18 29  1.25E-02
G7   28 50     29 18  1.25E-02
G8   29 99     99 18  1.25E-02
G9   50 29     18 50  1.25E-02
V4   25 29     0.675
V5   29 26     0.675
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1
*
* MODELS USED
*
.MODEL JX PJF(BETA=1.4E-3  VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-12 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-12 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=200 KF=2.651E-15 AF=6.8E-14)
.MODEL DIN  D(IS=1E-12 RS=12090 KF=0 AF=1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=1.6E-16)
*
*
.ENDS ADTL082




